US05338857
Dissolved in 200 ml of benzene were 18.5 g (0.12 mol) of benzenehydroxamic acid chloride synthesized in accordance with a known process [J.Org.Chem., 45, 3916 (1980)] and 10.0 g (0.12 mole) of 1-pentyne-3-ol, followed by the dropwise addition of 18 g (0.18 mol) of triethylamine under ice cooling. After they were reacted under reflux for 10 hours, the reaction mixture was washed with water and the organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography on a silica gel column (eluent: chloroform), whereby 5-(1-hydroxypropyl)-3-phenylisoxazole was obtained as colorless crystals. Analytical results of the crystals obtained: Yield: 19.3 g (79.7%). Melting point: 101°-102° C.

reactant | benzenehydroxamic acid chloride | 0.12 mol, 18.5 g | C1(=CC=CC=C1)C(=O)NCl | C7H6ClNO
reactant | 1-pentyne-3-ol | 0.12 mole, 10.0 g | C#CC(CC)O | C5H8O
reactant | triethylamine | 0.18 mol, 18 g | C(C)N(CC)CC | C6H15N
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-(1-hydroxypropyl)-3-phenylisoxazole | OC(CC)C1=CC(=NO1)C1=CC=CC=C1 | C12H13NO2
